US07381728B2
N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluoro-4-(2-furanyl)benzenesulfonamide (E112)
To a mixture of 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluorobenzenesulfonamide (E103) (100 mg, 0.21 mmol) and 2-furanylboronic acid (50 mg, 0.42 mmol) in DME (3 ml) was added potassium tert-butoxide (220 mg, 1.96 mmol) and tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.01 mmol) in water (1 ml) and the resulting mixture stirred in a microwave (set at high absorbance) at 100° C. for 30 minutes. The resulting mixture was then evaporated in vacuo and purified using an SCX cartridge eluting with methanol followed by ammonia (2M in methanol). The appropriate fractions were combined and evaporated in vacuo and the residue purified further by mass directed autoprep HPLC to afford the title compound (E112). MS (ES+) m/e 460 [M+H]+.

reactant | 4-bromo-N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluorobenzenesulfonamide | 0.21 mmol, 100 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)N1C[C@H](N[C@H](C1)C)C)OC)F | C19H23BrFN3O3S
reactant | 2-furanylboronic acid | 0.42 mmol, 50 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | potassium tert-butoxide | 1.96 mmol, 220 mg | CC(C)([O-])C.[K+]
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(cis-3,5-Dimethyl-1-piperazinyl)-2-(methyloxy)phenyl]-2-fluoro-4-(2-furanyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=C(C=C1)C=1OC=CC1)F)OC | C23H26FN3O4S
